US05047555
To a solution of 1.6 g of 4-benzyloxy-3,5-dimethylaniline in 30 ml of dimethylformamide is added under ice-cooling 1.17 g of potassium carbonate, and then a solution of 2.0 g of 3,4-diacetoxycinnamoyl chloride in 10 ml of dimethylformamide is added dropwise at 5° to 7° C., followed by stirring at room temperature for 2 hours. The reaction mixture is poured into ice-water, adjusted to pH 1 with 10 % hydrochloric acid and extracted with ethyl acetate. The extract is washed with water, dried and then concentrated. Recrytallization of the residue from methanol gives 2.64 g of N-(3,4-diacetoxycinnamoyl)-4-benzyloxy-3,5-dimethylaniline.

reactant | 4-benzyloxy-3,5-dimethylaniline | 1.6 g | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1C)C | C15H17NO
reactant | potassium carbonate | 1.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-diacetoxycinnamoyl chloride | 2.0 g | C(C)(=O)OC=1C=C(C=CC(=O)Cl)C=CC1OC(C)=O | C13H11ClO5
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(3,4-diacetoxycinnamoyl)-4-benzyloxy-3,5-dimethylaniline | 2.64 g | C(C)(=O)OC=1C=C(C=CC(=O)NC2=CC(=C(C(=C2)C)OCC2=CC=CC=C2)C)C=CC1OC(C)=O | C28H27NO6
